US08492549B2
3-[(R)-1-((S)-7-Nitro-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-piperidin-3-yl]-phenol
Methanesulfonic acid (R)-7-nitro-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester (0.98 mmol, 0.28 g) was dissolved in the mixture of DMF (2.8 ml) and acetonitrile (2.8 ml). NaHCO3 (2.92 mmol, 0.25 g) and (R*)-3-(piperidin-3-yl)phenol hydrochloride was added. The mixture was refluxed 4 h and after cooling water (15 ml) was added. The water phase was extracted twice with ethyl acetate and washed with water and brine. Evaporation to dryness gave 0.36 g of the crude product. Flash chromatography, using heptane/EtOAc as eluent and crystallisation (CHCl3) gave 83 mg of the desired product.

reactant | Methanesulfonic acid (R)-7-nitro-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester | 0.98 mmol, 0.28 g | [N+](=O)([O-])C=1C=CC2=C(O[C@H](CO2)COS(=O)(=O)C)C1 | C10H11NO7S
reactant | NaHCO3 | 2.92 mmol, 0.25 g | C(=O)(O)[O-].[Na+]
reactant | (R*)-3-(piperidin-3-yl)phenol hydrochloride | Cl.N1C[C@H](CCC1)C=1C=C(C=CC1)O
reactant | water | 15 ml | O | H2O
solvent | DMF | 2.8 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 2.8 ml | C(C)#N | C2H3N
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 3-[(R)-1-((S)-7-Nitro-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-piperidin-3-yl]-phenol | 83 mg | [N+](=O)([O-])C=1C=CC2=C(O[C@H](CO2)CN2C[C@H](CCC2)C=2C=C(C=CC2)O)C1 | C20H22N2O5
